US06951879B2
In analogy to example 3.1, 6-(4-Bromo-butoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene and azetidine were converted to yield 1-{4-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-azetidine as colorless oil, MS: 356 (MH+).

reactant | 6-(4-Bromo-butoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC=C2C2=CC=C(C=C2)F)C1 | C18H16BrFOS
reactant | azetidine | N1CCC1 | C3H7N
product | 1-{4-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-azetidine | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OCCCCN2CCC2 | C21H22FNOS
